US06509328B1
4-(7-Cyclopropyl-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile
Prepared from {2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-cyclopropyl-phenyl}-carbamic acid tert.-butyl ester (Example K79) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light brown solid (88 mg).

reactant | {2-[3-(2-cyano-pyridin-4-yl)-3-oxo-propionylamino]-4-cyclopropyl-phenyl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1CC1)NC(CC(=O)C1=CC(=NC=C1)C#N)=O)=O | C23H24N4O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(7-Cyclopropyl-4-oxo-4,5-dihydro-3H-benzo[b][1,4]diazepin-2-yl)-pyridine-2-carbonitrile | 88 mg | C1(CC1)C1=CC2=C(N=C(CC(N2)=O)C2=CC(=NC=C2)C#N)C=C1 | C18H14N4O
